US04931568
2-Hexyloxythiophene
15 cm3 of 2-methoxythiophene were dissolved in 40 cm3 of n-hexanol and 30 cm3 of toluene, 1 g of NaHSO4 was added, and the mixture was refluxed for several hours. After distilling off 6 cm3 of an azeotrope of methanol and toluene, the residue was washed with sodium carbonate solution, dried and fractionated. 18 g of 2-hexyloxythiophene of b.p. 66° C./0.26 mbar were distilled off, 96% pure. Yield 65% of theory.

reactant | 2-methoxythiophene | 15 cm3 | COC=1SC=CC1 | C5H6OS
reactant | NaHSO4 | 1 g | OS(=O)(=O)[O-].[Na+]
reactant | n-hexanol | 40 cm3 | C(CCCCC)O | C6H14O
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-Hexyloxythiophene | Yield 65% | C(CCCCC)OC=1SC=CC1 | C10H16OS
